US04065473
Preparation of N-[3-(3,4-Dimethoxyphenyl)propyl]phthalimide
6.4 g of 3-(3,4-dimethoxyphenyl)-propylamine (0.03 moles) was refluxed with 5.47 g of phthalic anhydride (0.037 moles) in 70 ml of acetic acid for 2.5 hours. The solvent was then removed in the rotary evaporator. Recrystallization of the residue from 150 ml of ether gave 4.0 g of a first crop, m.p. 82°-85° and 7.0 g of a second crop, m.p. 81°-83°.

reactant | 3-(3,4-dimethoxyphenyl)-propylamine | 0.03 moles, 6.4 g | COC=1C=C(C=CC1OC)CCCN | C11H17NO2
reactant | phthalic anhydride | 0.037 moles, 5.47 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | N-[3-(3,4-Dimethoxyphenyl)propyl]phthalimide | COC=1C=C(C=CC1OC)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C19H19NO4
